US06762180B1
(3) 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-methylcarbamoyl-2-indolinone
Prepared from 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-carboxy-2-indolinone and methylamine hydrochloride/diisopropylethylamine Rf value: 0.3 (aluminium oxide, methylene chloride/ethanol=20:1) C29H30N4O2

reactant | 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-carboxy-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)O)=O)C=C1 | C28H27N3O3
reactant | methylamine hydrochloride diisopropylethylamine | Cl.CN.C(C)(C)N(CC)C(C)C
product | 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-methylcarbamoyl-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(NC)=O)=O)C=C1 | C29H30N4O2
